US08076329B2
A mixture of 4-(4-methoxyphenyl)pyridine 1-oxide (1.68 g) and phosphorus oxychloride (15 mL) is heated under reflux for six hours and concentrated under reduced pressure. Toluene is added and the mixture concentrated under reduced pressure. The residue is dissolved in hot toluene (20 mL) and the organic phase washed with water (twice 10 mL) a saturated aqueous sodium hydrogenocarbonate solution (10 mL), dried over magnesium sulphate and concentrated under reduced pressure to give 1.45 g of 2-chloro-4-(4-methoxyphenyl)pyridine as an orange coloured crystalline material.

reactant | 4-(4-methoxyphenyl)pyridine 1-oxide | 1.68 g | COC1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C12H11NO2
reactant | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-methoxyphenyl)pyridine | 1.45 g | ClC1=NC=CC(=C1)C1=CC=C(C=C1)OC | C12H10ClNO
